US06350750B1
Part A: A mixture of 19.2 g (89 mmol) of 2-amino-3-bromo benzoic acid (Beistein vol 14,369,vol IV,pg 1080) and 75 ml (0.79 mol) of acetic acid anhydride was heated to 110° C. under nitrogen with stirring for 3 hours. After cooling the mixture was concentrated in vacuo and co-evaporated twice with toluene. The product was purified over silicagel using CH2Cl2 as the eluent. A total of 17.0 g of 2-methyl-8-bromo-3,1-benzoxazin-4-one was obtained (80% yield).

reactant | 2-amino-3-bromo benzoic acid | 89 mmol, 19.2 g | NC1=C(C(=O)O)C=CC=C1Br | C7H6BrNO2
reactant | acetic acid anhydride | 0.79 mol, 75 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-8-bromo-3,1-benzoxazin-4-one | 17.0 g, 80% yield | CC1=NC2=C(C(O1)=O)C=CC=C2Br | C9H6BrNO2
